US06258854B1
Synthesis of p-Methoxyphenacyl acetate
To a solution of 63 g potassium acetate in 750 ml of methanol, 92.9 g of 4-methoxyphenacyl bromide was dropped in. The resulting solution was refluxed for 4 hours, then cooled and poured into water. The aqueous layer was extracted with ether, then the combined organic phases were washed with water, dried, and evaporated to dryness. The resulting solid was recrystallized from methanol to yield 54.5 g crystals.

reactant | potassium acetate | 63 g | C(C)(=O)[O-].[K+]
reactant | 4-methoxyphenacyl bromide | 92.9 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | water | O | H2O
solvent | methanol | 750 ml | CO | CH4O
product | p-Methoxyphenacyl acetate | 54.5 g | C(C)(=O)OCC(=O)C1=CC=C(C=C1)OC | C11H12O4
